Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain and Bright Red Blood Per Rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with medical history of DVT ___ years ago on Coumadin), and 
hypothyroidism presenting with abdominal pain, nausea and BRBPR. 
Her pain began 3 days ago and was considerably worse today 
___. Pain was mostly in lower abdomen and is crampy pain which 
has increased over the past 2 days and can be associated with 
nausea. Pain can migrate to the RLQ as well.  Pain is ___, and 
occurs 15 min post-prandial.  The pain is more intense with 
fatty meals compared to vegetables, and resolves spontaneously 
without intervention, though patient has been taking Advil for 
pain.  Today had some dizziness and nausea associated. + chills 
+dysuria. Never had a colonoscopy before and notes she spends 
extended time on the toilet reading magazines. Had episode of 
bloody ___, with blood mixed in the stool.  Of note, BM 
___, day of presentation, non bloody stool. Patient also noted 
3 day history of dysuria, and increased urinary frequency. 

Denied any vomiting, fever, diarrhea, constipation, or 
dyschezia. The patient has a ventral hernia first noticed ___ 
years ago. She reports the hernia has not changed. Denied 
noticing any protruding or retracting of the hernia. Denied pain 
associated with hernia although she did indicate it is mildly 
tender.  

In the ED, initial VS were 97.7 91 145/88 17 100% RA. 
Exam in the ED was notable for a rectal exam with external 
non-bleeding hemorrhoid. 

Labs showed normal CBC, normal CHM-7, normal transaminases and 
lipase elevated to 93. INR was 1.2. UA was negative, Urine HCG 
was negative.
CT A/P done in the ED revealed unremarkable colon. However, CT 
was notable for 'fat containing umbilical hernia demonstrates a 
fascial defect of 3.4 cm is associated with mild fat stranding.' 
CT read also notable for 'Multiple anterior abdominal wall 
varices, left greater than right, with prominence of the 
hemiazygous and azygous systems suggests proximal venous 
obstruction in the chest for which clinical correlation is 
advised.' ACS was consulted, and commented that LLQ pain did not 
seem related to ventral hernia. Recommended further workup and 
outpatient colonoscopy for LLQ pain.  Patient was given multiple 
doses of IV morphine, Zofran and lovenox. Decision was made to 
admit to medicine for further management. 

Transfer VS were 98 88 148/82 16 100% RA.   

On arrival to the floor, patient reports feeling alright. She 
states she is not in any pain currently, despite requiring large 
doses of morphine in the ED.  She is hungry but has been 
avoiding food out of concern for causing further pain.  She also 
notes having swelling in her L calf with no pain, over the past 
few days.
 
Past Medical History:
DVT ___, on Coumadin, Hypothyroidism
 
Social History:
___
Family History:
Familial hypertension
Sister has depression.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  98.2  132/85  95  20  99%
GENERAL: Well appearing female lying in bed, No acute distress
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: midline scar, nondistended, soft BS, mild to moderate 
TTP in LLQ; umbilical hernia;  no rebound/guarding, no 
hepatosplenomegaly  
EXTREMITIES:
LLE swollen, larger than right, not painful to palpation.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
VS -  98.4, 140/89, 78, 18, 100% on RA
GENERAL: Well appearing female lying in bed, No acute distress
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: midline scar, nondistended, soft BS, mild to moderate 
TTP in LLQ; umbilical hernia;  no rebound/guarding, no 
hepatosplenomegaly  
EXTREMITIES:
LLE swollen, larger than right, not painful to palpation.
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LAB VALUES
=====================
___ 10:10AM BLOOD WBC-9.5 RBC-4.17 Hgb-12.0 Hct-37.8 MCV-91 
MCH-28.8 MCHC-31.7* RDW-13.7 RDWSD-45.3 Plt ___
___ 10:10AM BLOOD ___ PTT-34.0 ___
___ 10:10AM BLOOD Glucose-95 UreaN-15 Creat-0.6 Na-135 
K-4.2 Cl-102 HCO3-23 AnGap-14
___ 10:10AM BLOOD Albumin-4.0
___ 10:10AM BLOOD CRP-9.7*
___ 10:09AM BLOOD Lactate-1.1

PERTINENT FINDINGS
====================
CT Abd/Pelvis ___:
1.  Moderate size fat containing umbilical hernia is associated 
with mild fat stranding.
2.  Two hepatic hypodensities, one of which is compatible with a 
hemangioma, and the other may reflect a cyst or hemangioma.
3.  Three left adnexal simple appearing cysts which measure up 
to 1.8 cm.  In a patient of reproductive age, cysts less than 3 
cm in size require no further follow up.
4.  Multiple anterior abdominal wall varices, left greater than 
right, with prominence of the hemiazygous and azygous systems 
suggests proximal venous obstruction in the chest for which 
clinical correlation is advised.

CXR ___:
FINDINGS: 
 
PA and lateral views of the chest provided.   Lung volumes are 
low limiting assessment.  Allowing for this, the lungs are 
clear.  No convincing evidence for pneumonia or edema.  No large 
effusion or pneumothorax.  The heart is top-normal in size.  
Mediastinal contour is unremarkable.  Bony structures are 
intact.  No free air below the right hemidiaphragm.

DISCHARGE LAB VALUES
=====================
___ 07:55AM BLOOD WBC-7.0 RBC-4.36 Hgb-12.5 Hct-39.8 MCV-91 
MCH-28.7 MCHC-31.4* RDW-13.7 RDWSD-45.5 Plt ___
___ 05:50AM BLOOD Neuts-44.1 ___ Monos-9.1 Eos-2.6 
Baso-0.3 Im ___ AbsNeut-3.19 AbsLymp-3.16 AbsMono-0.66 
AbsEos-0.19 AbsBaso-0.02
___ 07:55AM BLOOD ___ PTT-37.9* ___
___ 07:55AM BLOOD Glucose-100 UreaN-12 Creat-0.7 Na-137 
K-4.4 Cl-102 HCO3-26 AnGap-13
___ 07:55AM BLOOD Calcium-10.4* Phos-3.2 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ w/ hx of DVT ___ years ago (still on 
Coumadin), and hypothyroidism presenting with LLQ abdominal 
pain, nausea and BRBPR of unclear etiology. 

#LLQ Abdominal Pain: Patient had 3 days of sharp left lower 
quadrant pain associated with food that often self resolved 
quickly. In the ED patient had episode of pain requiring IV 
morphine. She underwent CT abd/pelvis which revealed showed no 
sign of diverticular disease, colitis, or anatomic changes that 
would anatomically correlate with her presentation.  She was 
evaluated by ACS for an umbilical hernia deemed not to be the 
source of discomfort.  CT also revealed multiple anterior 
abdominal wall varices, left greater than right, with prominence 
of the hemiazygous and azygous system, which upon further 
discussion with radiology was deemed to be chronic and not 
related to current presentation.  On the floor patient had a 
single, quickly self resolving episode of pain, and without pain 
medication requirements.  She had no episodes of bloody stool 
and no further episodes of abdominal pain.  She was noted to 
have external hemorrhoids, likely the source of outlet bleeding. 
 The episodes of pain never had a clear etiology at time of 
discharge, with no anatomic correlation and no sign of 
infection. Patient was advised to follow up with PCP and 
schedule GI outpatient if pain returns.

#DVT: Patient had a history of DVT, unclear if provoked vs 
unprovoked.  Of note she also had L lower extremity swelling, 
which per patient is recurrent.  She had no episodes of 
tachycardia, hypoxia, or dyspnea. INR was found to be 
subtherapeutic on admission (INR 1.2). She was started on 
heparin drip, transitioned to lovenox with a plan to bridge to 
coumadin. She was connected with the ___ clinic 
for monitoring of INR (GOAL ___.

**CHRONIC**

#Hypothyroidism: Continued home dose of Levothyroxine.

TRANSITIONAL ISSUES:
======================
[ ] Patient applying for Mass health, application in progress
[ ] INR was subtherapeutic, being bridged with Coumadin while on 
Lovenox for 2 weeks. Goal INR ___
[ ] Patient would like to have umbilical hernia evaluated for 
treatment
[ ] Patient should have outpatient colonoscopy schedueld
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 5 mg PO DAILY16 
2. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1. Enoxaparin Sodium 90 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 90 mg SubQ Every 12 hours Disp #*28 
Syringe Refills:*0
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Warfarin 7.5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg 3 tablet(s) by mouth Once per 
evening Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
- Abdominal pain, unspecified
- Subtherapeutic INR

Secondary:
- Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
intermittent abdominal pain and an episode of bloody stool. You 
were underwent at CT scan which showed no obvious cause of your 
abdominal pain. You were found to have a hemorrhoid on exam, 
which was likely the source of your bloody stool.  After being 
watched over the weekend, your pain resolved on its own, the 
initial cause of pain remains unclear.  While inpatient, we 
noticed your anticoagulation levels on Coumadin were low.  You 
have been given lovenox to use until your anticoagulation levels 
have been reached.  

It was a pleasure taking care of you during your stay at ___. 
If you have any questions about the care your received, please 
do not hesitate to ask.

Sincerely,
Your Inpatient ___ Care Team
 
Followup Instructions:
___